US05498715
For the example of the reaction of 1,1-diamino-2-nitroethene with acetylacetone to give 2-amino-3-nitro-4,6-dimethylpyridine, this reaction is described by Troschutz et al., in Arch. Pharm., 325 (1992), 785-789. A yield of 52 percent is described.

reactant | 1,1-diamino-2-nitroethene | NC(=C[N+](=O)[O-])N | C2H5N3O2
reactant | acetylacetone | C(C)(=O)CC(C)=O | C5H8O2
product | 2-amino-3-nitro-4,6-dimethylpyridine | yield of 52 percent | NC1=NC(=CC(=C1[N+](=O)[O-])C)C | C7H9N3O2
